US07625922B2
N-(4-(2,3-Diaminopyridin-4-yl-oxy)-2-fluorophenyl)-2,2,2-trifluoroacetamide
Method D2 (using hydrogen). N-(4-(2-amino-3-nitropyridin-4-yl-oxy)-2-fluorophenyl)-2,2,2-trifluoroacetamide (540 mg, 1.5 mmol) was dissolved in ethanol (15 mL) and AcOEt (5 mL). Palladium 10% on activated carbon (150 mg) was added and the reaction mixture was stirred for 2 hours under hydrogen atmosphere. The catalyst was filtered off and the filtrate evaporated to afford the title compound (490 mg, 100%). 1H-NMR (δ, ppm, DMSO-d6): 4.65 (s, 2H, NH2,Py3), 5.86 (s, 2H, NH2,Py2), 6.23 (d, 1H, HPy,6, J=5.71 Hz), 6.85 (d, 1H, Harom,Ph, J=8.80 Hz), 7.01 (d, 1H, Harom,Ph, J=11.51 Hz), 7.32 (d, 1H, HPy,5, J=5.71 Hz), 7.45 (t, 1H, Harom,Ph, J=8.76 hz), 11.37 (s, 1H, NHCOCF3).

reactant | hydrogen | [H][H] | H2
reactant | N-(4-(2-amino-3-nitropyridin-4-yl-oxy)-2-fluorophenyl)-2,2,2-trifluoroacetamide | 1.5 mmol, 540 mg | NC1=NC=CC(=C1[N+](=O)[O-])OC1=CC(=C(C=C1)NC(C(F)(F)F)=O)F | C13H8F4N4O4
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | AcOEt | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Palladium | [Pd] | Pd
product | N-(4-(2,3-Diaminopyridin-4-yl-oxy)-2-fluorophenyl)-2,2,2-trifluoroacetamide | 490 mg, 100% | NC1=NC=CC(=C1N)OC1=CC(=C(C=C1)NC(C(F)(F)F)=O)F | C13H10F4N4O2
